US08664236B2
Synthesis of 1-benzenesulfonyl-3-iodo-5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
The 3-iodo-5-(1-methylpyrazol-4-yl)-7-azaindole prepared in accordance with WO 2008155000 (34 g) is suspended in 350 ml of dichloromethane, and 43.5 ml of triethylamine and 2.6 g of 4-(dimethylamino)pyridine are added. 17.5 ml of benzenesulfonyl chloride which has previously been diluted with 150 of dichloromethane are added to this mixture. After 2 h, the reaction is complete. The organic phase is extracted three times with water, and the organic phase is dried over sodium sulfate. After removal of the solvent, the residue is taken up in ethyl acetate, the precipitate is filtered off, rinsed with ethyl acetate, and the product is dried in air to give 44 g (90%) of beige crystals; (Rt: 2.467 min; M+H+: 464.9).

reactant | 3-iodo-5-(1-methylpyrazol-4-yl)-7-azaindole | IC1=CNC2=NC=C(C=C12)C=1C=NN(C1)C | C11H9IN4
reactant | triethylamine | 43.5 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 17.5 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 2.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-benzenesulfonyl-3-iodo-5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 44 g, 90% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=C(C2)C=2C=NN(C2)C)I | C17H13IN4O2S
